US04051173
A solution of 15.3 g. of 2-bromo-2-methylpropanol in 50 ml. of acetone is added slowly to a stirred mixture consisting of 23.45 g. of 4-p-chlorophenoxymethyl-phenol, 13.8 g. of K2CO3 an 80 ml. of acetone. The mixture is boiled for 12 hours while stirring and then filtered and evaporated to give 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methyl-propanol, m.p. 67°-70° C.

reactant | 2-bromo-2-methylpropanol | BrC(CO)(C)C | C4H9BrO
reactant | 4-p-chlorophenoxymethyl-phenol | ClC1=CC=C(OCC2=CC=C(C=C2)O)C=C1 | C13H11ClO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[4-(4-chlorophenoxymethyl)-phenoxy]-2-methyl-propanol | ClC1=CC=C(OCC2=CC=C(OC(CO)(C)C)C=C2)C=C1 | C17H19ClO3
